US05672609
1-(4-Benzyloxyphenyl)-2-(4-methoxyphenyl)ethan-1-one
A 60% dispersion of sodium hydride in mineral oil (17 g, 0.42 mol) was washed with hexane and suspended in 200 mL DMF. 2-(4-benzyloxyphenyl)-2-(N,N-diethylamino)acetonitrile (94 g, 0.32 mol) in 350 mL DMF was added dropwise over 1 h at rt to the NaH suspension and stirred an additional 1 h. A 300 mL DMF solution of 4-methoxybenzylchloride (50 g, 0.32 mol) was added dropwise over 45 min to the reaction mixture causing a mild exotherm to 45° C. The reaction mixture was stirred for 16 h at rt, cooled in an ice bath, quenched with 100 mL MeOH, and reduced in vacuo to a smaller volume. The brown suspension was cooled in an ice bath and stirred while 2 L of 5N HCl was added at a rate to keep the temperature below 25° C. The suspension was stirred 18 h at rt, then extracted several times with CH2 Cl2. The CH2Cl2 extracts were combined, washed with brine, dried (Na2SO4), and concentrated to give an oily brown solid. The product was triturated with Et2O, filtered, and dried in vacuo to give 90 g (85%) of an off-white solid: mp 147°-148° C.; 1H NMR (CDCl3) d 3.80 (s, 3H, OCH3), 4.18 (s, 2H, O=CCH2), 5.13 (s, 2H, OCH2Ar), 7.00-7.03 (d, 2H, J=9 Hz, ArH), 7.18-7.21 (d, 2H, J=9 Hz, ArH), 7.41-7.44 (m, 5H, ArH), 7.99-8.02 (d, 2H, J=9 Hz, ArH); MS(FD) 332(M+). Anal. Calcd for C22H20 O3 : C, 79.49; H, 6.06. Found: C, 79.23; H, 6.08.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-benzyloxyphenyl)-2-(N,N-diethylamino)acetonitrile | 0.32 mol, 94 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C#N)N(CC)CC | C19H22N2O
reactant | 4-methoxybenzylchloride | 0.32 mol, 50 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | DMF | 350 mL | CN(C)C=O | C3H7NO
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 1-(4-Benzyloxyphenyl)-2-(4-methoxyphenyl)ethan-1-one | 90 g, 85% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)OC)=O | C22H20O3
